Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][c:2]1[n:3][n:4][c:5](-[c:6]2[c:7]3[cH:8][n:9][n:10]([S:11]([c:12]4[cH:18][cH:17][c:15]([CH3:16])[cH:14][cH:13]4)(=[O:19])=[O:20])[c:21]3[cH:22][c:23]([Br:24])[cH:25]2)[o:26]1.[CH2:27]1[CH2:28][O:29][CH2:30][CH2:31][NH:32]1>>[CH2:1]([c:2]1[n:3][n:4][c:5](-[c:6]2[c:7]3[cH:8][n:9][n:10]([S:11]([c:12]4[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]4)(=[O:19])=[O:20])[c:21]3[cH:22][c:23]([Br:24])[cH:25]2)[o:26]1)[N:32]1[CH2:27][CH2:28][O:29][CH2:30][CH2:31]1,[Cl:101][CH2:1][c:2]1[n:3][n:4][c:5](-[c:6]2[c:7]3[cH:8][n:9][n:10]([S:11]([c:12]4[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]4)(=[O:19])=[O:20])[c:21]3[cH:22][c:23]([Br:24])[cH:25]2)[o:26]1.[CH2:27]1[CH2:28][O:29][CH2:30][CH2:31][NH:32]1>>[CH2:1]([c:2]1[n:3][n:4][c:5](-[c:6]2[c:7]3[cH:8][n:9][n:10]([S:11]([c:12]4[cH:13][cH:14][c:15]([CH3:16])[cH:17][cH:18]4)(=[O:19])=[O:20])[c:21]3[cH:22][c:23]([Br:24])[cH:25]2)[o:26]1)[N:32]1[CH2:27][CH2:28][O:29][CH2:30][CH2:31]1,SN2,"[(32, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7](-[c:8]2[n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]3[c:18]([cH:19]2)[cH:20][c:21]([CH2:22][N:23]2[CH2:24][CH2:25][CH2:26][CH2:27][CH2:28]2)[cH:29][cH:30]3)[c:31]2[c:32]([c:33]1[Cl:34])[CH2:35][NH:36][C:37]2=[O:38].[OH:39][CH:40]1[CH2:45][CH2:44][NH:43][CH2:42][CH2:41]1>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7](-[c:8]2[n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]3[c:18]([cH:19]2)[cH:20][c:21]([CH2:22][N:23]2[CH2:24][CH2:25][CH2:26][CH2:27][CH2:28]2)[cH:29][cH:30]3)[c:31]2[c:32]([c:33]1[Cl:34])[CH2:35][NH:36][C:37]2=[O:38])[N:43]1[CH2:42][CH2:41][CH:40]([OH:39])[CH2:45][CH2:44]1,[Cl:101][CH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7](-[c:8]2[n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]3[c:18]([cH:19]2)[cH:20][c:21]([CH2:22][N:23]2[CH2:24][CH2:25][CH2:26][CH2:27][CH2:28]2)[cH:29][cH:30]3)[c:31]2[c:32]([c:33]1[Cl:34])[CH2:35][NH:36][C:37]2=[O:38].[OH:39][CH:40]1[CH2:41][CH2:42][NH:43][CH2:44][CH2:45]1>>[CH2:1]([CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7](-[c:8]2[n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]3[c:18]([cH:19]2)[cH:20][c:21]([CH2:22][N:23]2[CH2:24][CH2:25][CH2:26][CH2:27][CH2:28]2)[cH:29][cH:30]3)[c:31]2[c:32]([c:33]1[Cl:34])[CH2:35][NH:36][C:37]2=[O:38])[N:43]1[CH2:42][CH2:41][CH:40]([OH:39])[CH2:45][CH2:44]1,SN2,"[(43, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](/[CH:2]=[CH:3]/[CH2:4][N:5]([CH:6]([CH3:7])[CH3:8])[CH3:9])=[O:10].[Cl:11][c:12]1[cH:13][cH:14][c:15]([NH:16][c:17]2[n:18][cH:19][n:20][c:21]3[o:22][c:23]4[c:24]([c:25]23)[CH2:26][CH2:27][NH:28][CH2:29]4)[cH:30][c:31]1[Cl:32]>>[C:1](/[CH:2]=[CH:3]/[CH2:4][N:5]([CH:6]([CH3:7])[CH3:8])[CH3:9])(=[O:10])[N:28]1[CH2:27][CH2:26][c:24]2[c:23]([o:22][c:21]3[n:20][cH:19][n:18][c:17]([NH:16][c:15]4[cH:14][cH:13][c:12]([Cl:11])[c:31]([Cl:32])[cH:30]4)[c:25]23)[CH2:29]1,[Cl:11][c:12]1[cH:13][cH:14][c:15]([NH:16][c:17]2[n:18][cH:19][n:20][c:21]3[o:22][c:23]4[c:24]([c:25]23)[CH2:26][CH2:27][NH:28][CH2:29]4)[cH:30][c:31]1[Cl:32].[OH:101][C:1](/[CH:2]=[CH:3]/[CH2:4][N:5]([CH:6]([CH3:7])[CH3:8])[CH3:9])=[O:10].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](/[CH:2]=[CH:3]/[CH2:4][N:5]([CH:6]([CH3:7])[CH3:8])[CH3:9])(=[O:10])[N:28]1[CH2:27][CH2:26][c:24]2[c:23]([o:22][c:21]3[n:20][cH:19][n:18][c:17]([NH:16][c:15]4[cH:14][cH:13][c:12]([Cl:11])[c:31]([Cl:32])[cH:30]4)[c:25]23)[CH2:29]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (28, 1), ([1, 10], 10), (303, 28.1), ([28.1, 28], 28), (10, [10, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][c:5]([F:6])[cH:7][cH:8][c:9]1[F:10].[CH3:11][c:12]1[n:13][c:14]([NH2:15])[s:16][c:17]1[C:18](=[O:19])[NH:20][CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([F:6])[cH:7][cH:8][c:9]1[F:10])[NH:15][c:14]1[n:13][c:12]([CH3:11])[c:17]([C:18](=[O:19])[NH:20][CH2:21][c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[s:16]1,[CH3:11][c:12]1[n:13][c:14]([NH2:15])[s:16][c:17]1[C:18](=[O:19])[NH:20][CH2:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[Cl:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([F:6])[cH:7][cH:8][c:9]1[F:10]>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([F:6])[cH:7][cH:8][c:9]1[F:10])[NH:15][c:14]1[n:13][c:12]([CH3:11])[c:17]([C:18](=[O:19])[NH:20][CH2:21][c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[s:16]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(15, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
